US06492370B1
t-Butyl (2S)-2-[3-(2-hydroxyethyl)-3-(2-methoxyethyl)ureido]propionate (Compound No. 4-1)
t-Butyl (2S)-2-[3-[2-(t-butyldimethylsiloxy)ethyl]-3-(2-methoxyethyl)ureido]propionate (Compound No. 3-1, 2.79 g) is dissolved in anhydrous tetrahydrofuran (11 ml) under a nitrogen atmosphere. Tetra-n-butylammonium fluoride (7.3 ml) is added to the solution at room temperature with stirring, and the mixture is stirred for one hour. Water is added to the reaction mixture, and the whole is extracted with ethyl acetate. The organic layer is washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting oily matter is purified by silica gel column chromatography to give 2.14 g (quantitatively) of the titled compound (Compound No. 4-1).

reactant | t-Butyl (2S)-2-[3-[2-(t-butyldimethylsiloxy)ethyl]-3-(2-methoxyethyl)ureido]propionate | 2.79 g | O([Si](C)(C)C(C)(C)C)CCN(C(N[C@H](C(=O)OC(C)(C)C)C)=O)CCOC | C19H40N2O5Si
reactant | Tetra-n-butylammonium fluoride | 7.3 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Water | O | H2O
solvent | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
product | t-Butyl (2S)-2-[3-(2-hydroxyethyl)-3-(2-methoxyethyl)ureido]propionate | OCCN(C(N[C@H](C(=O)OC(C)(C)C)C)=O)CCOC | C13H26N2O5
